US06028035
Two drops of dimethylformamide and 11.9 g (0.1 mol) of thionyl chloride were added to a solution of 6.0 g (0.021 mol) of methyl 2-chloro-3-hydroxycarbonyl-4-methylsulfonylbenzoate and 50 ml of dry toluene. The solution was refluxed for 4 hours. After the solvent had been removed in vacuo, 6.2 g of methyl 2-chloro-3-chlorocarbonyl-4-methylsulfonylbenzoate were obtained.

reactant | thionyl chloride | 0.1 mol, 11.9 g | S(=O)(Cl)Cl | Cl2OS
reactant | methyl 2-chloro-3-hydroxycarbonyl-4-methylsulfonylbenzoate | 0.021 mol, 6.0 g | ClC1=C(C(=O)OC)C=CC(=C1C(=O)O)S(=O)(=O)C | C10H9ClO6S
catalyst | dimethylformamide | Two drops | CN(C=O)C | C3H7NO
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | methyl 2-chloro-3-chlorocarbonyl-4-methylsulfonylbenzoate | 6.2 g | ClC1=C(C(=O)OC)C=CC(=C1C(=O)Cl)S(=O)(=O)C | C10H8Cl2O5S
